US07723347B2
N-(2-Fluoro-4-nitrophenyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-4-amine
50 mg (0.19 mmol) of 1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-4-amine, 61 mg (0.23 mmol) of 2-fluoro-1-iodo-4-nitrobenzene and 26 mg (0.27 mmol) of sodium tert-butoxide are initially charged in 1 ml of toluene. The mixture is degassed. 8.7 mg (0.01 mmol) of tris(dibenzylideneacetone)dipalladium and 9.1 mg (0.02 mmol of dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine are then added. The mixture is heated in a sealed vessel at 120° C. overnight. The mixture is then filtered through an Extrelut cartridge (mobile phase: dichloromethane/methanol 10:1) and purified by preparative HPLC.

reactant | 1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-4-amine | 0.19 mmol, 50 mg | C[Si](CCOCN1C=CC2=C1N=CC=C2N)(C)C | C13H21N3OSi
reactant | 2-fluoro-1-iodo-4-nitrobenzene | 0.23 mmol, 61 mg | FC1=C(C=CC(=C1)[N+](=O)[O-])I | C6H3FINO2
reactant | sodium tert-butoxide | 0.27 mmol, 26 mg | CC(C)([O-])C.[Na+]
reactant | dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine | 0.02 mmol | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 0.01 mmol, 8.7 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(2-Fluoro-4-nitrophenyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-4-amine | FC1=C(C=CC(=C1)[N+](=O)[O-])NC=1C2=C(N=CC1)N(C=C2)COCC[Si](C)(C)C | C19H23FN4O3Si
